US05866685
A solution of oxalyl chloride (11.8 g) in methylene chloride (180 ml) iscooled to -78° C. and dimethyl sulfoxide (DMSO) (8.9 ml) is added dropwise. The solution is stirred at -78° C. for about 3 minutes and a solution of N-BOC-2-(piperidin-4-yl)ethanol (14.3 g) in methylene chloride (250 ml) is added over a period of about 10 minutes. The solutionis stirred for about 1 hour and N-methyl morpholine (21.6 g) is added over a period of about 15 minutes. The solution is allowed to warm to room temperature and, after about 30 minutes, methyl (triphenylphosphoranylidene) acetate (68.6 g) is added. The solution is stirred at room temperature for about 18 hours, evaporated in vacuo and the residue taken up in ethyl acetate. The ethyl acetate solution is washed with water, 5% HCl, 5% sodium hypochlorite solution, water, brine, dried over sodium sulfate, filtered and evaporated in vacuo to give methyl4-(N-BOC-piperidin-4-yl)trans-crotonate.

reactant | oxalyl chloride | 11.8 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-BOC-2-(piperidin-4-yl)ethanol | 14.3 g | C(=O)(OC(C)(C)C)N1CCC(CC1)CCO | C12H23NO3
reactant | N-methyl morpholine | 21.6 g | CN1CCOCC1 | C5H11NO
reactant | methyl (triphenylphosphoranylidene) acetate | 68.6 g | COC(=O)C=P(C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3 | C21H19O2P
solvent | methylene chloride | 180 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
solvent | dimethyl sulfoxide | 8.9 ml | CS(=O)C | C2H6OS
product | methyl4-(N-BOC-piperidin-4-yl)trans-crotonate | COC(\C=C\CC1CCN(CC1)C(=O)OC(C)(C)C)=O | C15H25NO4
